US04772624
Utilizing Procedure 2, 4-cyclohexyl-1-(4-ethynylphenyl)-2,6,7-trioxabicyclo[2.2.2]octane was prepared from its respective oxetane. The 3-cyclohexyl-3-hydroxymethyloxetane was reacted with 4-(1,2-dibromoethyl)benzoyl chloride by the method of Procedure 2. The resulting product was characterized by NMR (300 MHz, CDCl3): δ 1.0-1.4 and 1.6-2.0 (11H, m, cyclohexyl CH2), 3.9-4.1 (2H, m, CH2Br), 4.4 (2H, s, CH2O), 4.55 (4H, d of d, CH2OCH2), 5.1 (1H, d of d, ArCHBr), 7.45 (2H, d, aromatic), 8.1 (2H, d, aromatic).

reactant | oxetane | O1CCC1 | C3H6O
reactant | 3-cyclohexyl-3-hydroxymethyloxetane | C1(CCCCC1)C1(COC1)CO | C10H18O2
reactant | 4-(1,2-dibromoethyl)benzoyl chloride | BrC(CBr)C1=CC=C(C(=O)Cl)C=C1 | C9H7Br2ClO
product | 4-cyclohexyl-1-(4-ethynylphenyl)-2,6,7-trioxabicyclo[2.2.2]octane | C1(CCCCC1)C12COC(OC1)(OC2)C2=CC=C(C=C2)C#C | C19H22O3
